US07205306B2
3-(5-Bromo-7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-5-chloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 556 using 3,5-dichloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone and 5-bromo-7-methoxy-3,4-dihydro-2H-1,4-benzoxazine as the starting materials to give a brown oil. 1H NMR (300 MHz, CDCl3): δ 6.73 (d, J=2.9 Hz, 1H), 6.72 (s, 1H), 6.45 (d, J=2.6 Hz, 1H), 4.90–4.85 (m, 1H), 4.50–3.88 (m, 4H), 3.76 (s, 3H), 2.58–2.50 (m, 1H), 2.18–2.13 (m, 1H), 1.85–1.65 (m, 6H), 1.50–1.40 (m, 1H), 0.83 (t, J=7.4 Hz, 3H), HRMS (ESI) m/z 468.0665 [M+, calcd for C20H24N3O3BrCl 468.0690].

reactant | 3,5-dichloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)C1CCC1)=O | C11H14Cl2N2O
reactant | 5-bromo-7-methoxy-3,4-dihydro-2H-1,4-benzoxazine | BrC1=CC(=CC2=C1NCCO2)OC | C9H10BrNO2
product | 3-(5-Bromo-7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-5-chloro-1-(1-cyclobutylpropyl)-2(1H)-pyrazinone | BrC1=CC(=CC2=C1N(CCO2)C=2C(N(C=C(N2)Cl)C(CC)C2CCC2)=O)OC | C20H23BrClN3O3
